US04672066
A mixture of 1.5 g of 1-[4-(3-bromopropoxy)-3-hydroxy-2-propylphenyl]ethanone, 0.73 g of methyl 2-hydroxybenzoate and 1.0 g of potassium carbonate was allowed to react according to Example 79 to give 1.15 g (62% yield) of 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid methyl ester, the title compound as an oil.

reactant | 1-[4-(3-bromopropoxy)-3-hydroxy-2-propylphenyl]ethanone | 1.5 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)CCC)O | C14H19BrO3
reactant | methyl 2-hydroxybenzoate | 0.73 g | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid methyl ester | 1.15 g, 62% yield | COC(C1=C(C=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C22H26O6
